US07713982B2
b) 7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione
A mixture of 2-amino-7-(2-propen-1-yl)-1,7-dihydro-6H-purin-6-one (40 g, 0.209 mol) in AcOH (900 ml) and water (100 ml) was heated at 55° C. Sodium nitrite (57.74 g, 0.837 mol) in water (100 ml) was added dropwise. Care; toxic fumes. After the addition was complete (approximately 25 minutes) the reaction mixture was allowed to cool to ambient temperature and then concentrated to approximately ⅓ of its original volume. Water (500 ml) was added and the resulting precipitate collected by filtration. The residue was washed with water then dried at 50° C. over P2O5 and under vacuum for 2 hours to give the title compound (17.20 g). The aqueous fraction was concentrated and water added (100 ml). Again the resulting solid was filtered and dried. This gave more of the title compound (2.31 g). Combined product (19.52 g, 49%). m/z 193.2[MH+].

reactant | 2-amino-7-(2-propen-1-yl)-1,7-dihydro-6H-purin-6-one | 0.209 mol, 40 g | NC=1NC(C=2N(C=NC2N1)CC=C)=O | C8H9N5O
reactant | Sodium nitrite | 0.837 mol, 57.74 g | N(=O)[O-].[Na+]
solvent | AcOH | 900 ml | CC(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 17.20 g | C(C=C)N1C=NC=2NC(NC(C12)=O)=O | C8H8N4O2
